US07470689B2
b) Methyl 2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-1H -benzimidazole-5-carboxylate
A mixture of 1.3 g of methyl 4-amino-3-[(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazine-4-carbonyl)amino]benzoate and 20 ml of glacial acetic acid is heated with stirring at 100° C. for 10 hours. The precipitate which has formed is filtered off with suction, washed with water and dried in vacuo at 50° C.

reactant | methyl 4-amino-3-[(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazine-4-carbonyl)amino]benzoate | 1.3 g | NC1=C(C=C(C(=O)OC)C=C1)NC(=O)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C18H15N5O4
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | Methyl 2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-1H -benzimidazole-5-carboxylate | O=C1NN=C(C=C1C1=NC2=C(N1)C=CC(=C2)C(=O)OC)C2=CC=NC=C2 | C18H13N5O3
